US06863782B2
To 300 mL toluene in an 500 mL flask with condenser under a nitrogen atmosphere were added 30 g (120 mmol) di(trimethylolpropane), 4, 45.6 mL (38.9 g, 300 mmol) acrolein diethyl acetal, and 1.5 g (6 mmol) pyridinium p-toluenesulfonate. The mixture was refluxed for 4 hours, then cooled to room temperature, and 0.67 g (6 mmol) potassium tert-butoxide added. The toluene was removed by evaporation under reduced pressure, and the residue distilled in a Kugelrohr apparatus (pressure 1-3 mbar, pot temperature 142-180° C.) to give 35.35 g (91% yield) of crude di[(5-ethyl-2-vinyl-[1,3]dioxan-5-yl)methyl]ether, 5, as a light yellow oil. The crude product, 30 g, was purified by chromatography on 1 Kg Merck Silica Gel 60 in a 2 L glass fritted funnel, eluting with 20:80 ethyl acetate/heptane, to give 27.8 g (71% yield) of purer product, which was re-purified by a second chromatography on 1 Kg MERCK® Silica Gel 60 in a 2 L glass fritted funnel, eluting with 10:90 ethyl acetate/heptane, to give 16.44 g (42% yield) of essentially pure di[(5-ethyl-2-vinyl-1,3dioxan-5-yl)methyl]ether. This material was used in the photoisomerization.

reactant | di(trimethylolpropane) | 120 mmol, 30 g | CCC(CO)(CO)COCC(CC)(CO)CO | C12H26O5
reactant | acrolein diethyl acetal | 300 mmol, 45.6 mL, 38.9 g | C(C)OC(C=C)OCC | C7H14O2
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | pyridinium p-toluenesulfonate | 6 mmol, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
catalyst | potassium tert-butoxide | 6 mmol, 0.67 g | CC(C)([O-])C.[K+]
product | di[(5-ethyl-2-vinyl-[1,3]dioxan-5-yl)methyl]ether | 35.35 g, 91% yield | C(C)C1(COC(OC1)C=C)COCC1(COC(OC1)C=C)CC | C18H30O5
